US08420682B2
1.8 g (22.2 mmol, 2 eq.) of potassium cyanate are added at 30° C. to a solution of 3.7 g (11.3 mmol, 1 eq.) of 1-(4-iodophenylamino)cyclohexanecarbonitrile in 30 ml of glacial acetic acid. The reaction medium is stirred at 60° C. overnight. 5 ml of hydrochloric acid and then 3 ml of water are added. The medium is heated at 90° C. for 1 hour and then at room temperature for 3 hours. Water is then poured into the reaction medium, and the precipitate formed is filtered off and then chromatographed on silica gel (50/50 heptane/ethyl acetate). 180 mg of 1-(4-iodophenyl)-1,3-diaza-spiro[4.5]decane-2,4-dione are obtained in the form of an orange-coloured solid.

reactant | potassium cyanate | 22.2 mmol, 1.8 g, 2 eq. | [O-]C#N.[K+]
reactant | 1-(4-iodophenylamino)cyclohexanecarbonitrile | 11.3 mmol, 3.7 g, 1 eq. | IC1=CC=C(C=C1)NC1(CCCCC1)C#N | C13H15IN2
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | water | 3 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1-(4-iodophenyl)-1,3-diaza-spiro[4.5]decane-2,4-dione | 180 mg | IC1=CC=C(C=C1)N1C(NC(C12CCCCC2)=O)=O | C14H15IN2O2
